US05952320
1-tert-butyldimethylsilyl-3-bromoindole
To a cold (-78°) solution of indole (4.0 g, 34 mmol) in THF (120 mL) was added nBuLi (2.5M/Hexanes) over 5 minutes. The solution was warmed to -10° (ice/salt bath) for 15 minutes, re-cooled to -78° and TBDMS-Cl (5.8 g, 38 mmol) was added in THF (30 mL). The solution was held at 0° for 3 hours, cooled to -78° and N-Bromosuccinimide (6.0 g, 34 mmol) was added in one portion. The solution was stirred coldfor 2 hours and then was allowed to warm to ambient temperature at which time hexane/pyridine (100 mL) was added to the solution and the resulting suspension was filtered over Celite. The organics were evaporated and the residue quickly purified by flash chromatography (hexanes/methylene chloride 2:1) giving 8.5 g of the desired compound as a slightly purple solid.

reactant | indole | 34 mmol, 4.0 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | nBuLi | 2.5M | [Li]CCCC
reactant | TBDMS-Cl | 38 mmol, 5.8 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | N-Bromosuccinimide | 34 mmol, 6.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | hexane pyridine | 100 mL | CCCCCC.N1=CC=CC=C1
product | 1-tert-butyldimethylsilyl-3-bromoindole | 8.5 g | [Si](C)(C)(C(C)(C)C)N1C=C(C2=CC=CC=C12)Br | C14H20BrNSi
